data/core_train_final.csv
"[CH3:7][C:8]1([CH:9]2[CH2:20][CH:19]1[C:21](=[CH2:22])[CH:11]([CH2:10]2)[O:12][O:13][C:14]([CH3:15])([CH3:16])[CH3:17])[CH3:18].[CH3:1][O:2][C:3](=[O:6])[CH2:4][S:5]>>[CH3:7][C:8]1([CH:9]2[CH2:20][CH:19]1[C:21]([CH:11]([CH2:10]2)[O:12][O:13][C:14]([CH3:15])([CH3:16])[CH3:17])[CH2:22][S:5][CH2:4][C:3](=[O:6])[O:2][CH3:1])[CH3:18] 5-5,21; 22,21-5,22; 22,21-21",Room Temperature,Propagation,addition
